US09278951B2
Synthesis of 1-(napthalen-2-ylmethyl)-3-(pyren-2-ylmethyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) will be dissolved in a minimum volume of acetonitrile and stirred at reflux for 30 min. 2-(Bromomethyl)pyrene (2.95 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the KBr generated. 2-(Bromomethyl)naphthalene (2.21 g, 10.0 mmol) will be added to the filtrate and the mixture will be returned to reflux for 6 h. The volatile components will be removed under reduced pressure to yield the product.

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)pyrene | 10.0 mmol, 2.95 g | BrCC1=CC2=CC=C3C=CC=C4C=CC(=C1)C2=C43 | C17H11Br
reactant | 2-(Bromomethyl)naphthalene | 10.0 mmol, 2.21 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(napthalen-2-ylmethyl)-3-(pyren-2-ylmethyl)-4,5-dichloroimidazolium bromide | [Br-].C1=C(C=CC2=CC=CC=C12)C[N+]1=CN(C(=C1Cl)Cl)CC1=CC2=CC=C3C=CC=C4C=CC(=C1)C2=C43 | InChI=1S/C31H21Cl2N2.BrH/c32-30-31(33)35(19-34(30)17-20-8-9-22-4-1-2-5-25(22)14-20)18-21-15-26-12-10-23-6-3-7-24-11-13-27(16-21)29(26)28(23)24;/h1-16,19H,17-18H2;1H/q+1;/p-1
